US06495564B1
A solution of 2-(tert-Butyl-dimethyl-silanyl)-1-methyl-1H-imidazole (1.61 g, 8.2 mmol) in THF (40 mL) at −78° C. was treated with sec-butyllithium (1.3 M in cyclohexane, 7.9 mL, 10.3 mmol). The reaction mixture was warmed to 0° C., stirred for 3 hours, and cooled to −78° C. A solution of 6-(4-Chloro-benzoyl)-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one (2.87 g, 6.4 mmol) in THF (20 mL) was cannulated into the reaction mixture, slowly warmed to room temperature, and stirred overnight. The reaction mixture was quenched with ammonium chloride (12 mL), diluted with ether (200 mL), and washed with H2O (200 mL) and brine (200 mL). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo to give 6-[[2-(tert-butyl-dimethyl-silanyl)-3-methyl-3H-imidazol-4-yl]-(4-chloro-phenyl)-hydroxy-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one (4.35 g) as a yellow foam. The crude material was used in the next step without any further purification.

reactant | 2-(tert-Butyl-dimethyl-silanyl)-1-methyl-1H-imidazole | 8.2 mmol, 1.61 g | C(C)(C)(C)[Si](C=1N(C=CN1)C)(C)C | C10H20N2Si
reactant | sec-butyllithium | 10.3 mmol, 1.3 M, 7.9 mL | C(C)(CC)[Li]
reactant | 6-(4-Chloro-benzoyl)-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one | 6.4 mmol, 2.87 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)CC2CC2)=O)C2=CC(=CC=C2)Cl)C=C1 | C26H19Cl2NO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-[[2-(tert-butyl-dimethyl-silanyl)-3-methyl-3H-imidazol-4-yl]-(4-chloro-phenyl)-hydroxy-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one | 4.35 g | C(C)(C)(C)[Si](C1=NC=C(N1C)C(C=1C=C2C(=CC(N(C2=CC1)CC1CC1)=O)C1=CC(=CC=C1)Cl)(O)C1=CC=C(C=C1)Cl)(C)C | C36H39Cl2N3O2Si
